US04216333
A mixture of pyridine (15 ml), diphenyl phosphite (2.34 g, 10 mmole), imidazole (0.68 g, 10 mmole) and triphenylmethanol (2.08 g, 8 mmole) was refluxed for 3 hours. Pyridine was removed under reduced pressure, and the residue was extracted with dichloromethane. The extract was washed with a 5% aqueous hydroxide solution and water in order, dried and evaporated. Recrystallization of the residue (2.23 g) from acetonitrile gave 2.05 g of 1-triphenylmethylimidazole as colorless needles. Yield, 82.7%. M.P., 221°-223° C.

reactant | diphenyl phosphite | 10 mmole, 2.34 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | imidazole | 10 mmole, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | triphenylmethanol | 8 mmole, 2.08 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-triphenylmethylimidazole | 2.05 g | C1(=CC=CC=C1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2
